Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ gangrene
 
Major Surgical or Invasive Procedure:
Right below knee amputation 
 
History of Present Illness:
___ male hx CAD(CABG,EF 15), ESRD/HD, ___ on
Coumadin with hx of R POP-DP bypass  (unknown graft material)
___ c/b graft infection s/p explant of graft ___ with
chronic ___ ankle ulcers with exposed tendon transfers from ___ wound clinic for worsening infection.

Patient reports he has had many interventions on his right ___
dating back to repeated traumatic injuries to his right ankle in
___ with instability of the lateral ligaments requiring
multiple ligament reconstructions in ___ and ___ which
healed. He developed an ulcer on his right foot early last year
and was found to have severe tibial disease and underwent
popliteal to DP bypass (unknown graft material) in ___
(___, Vascular surgeon Dr ___ which was complicated by hematoma formation, graft
infection and ultimately graft explantation in ___. Patient
reports he has not had any claudication symptoms however, 
started
getting breakdown of his prior reconstruction scars of his ankle
starting 3 months ago gradually progressing to exposed tendons 
on
both sides of his left ankle. He has been managed by ___
wound care clinic and ___ without any major infections however 
he
lost his insurance about 1 month ago and has only received
sporadic wound care with acute worsening of tissue breakdown in
the last 2 weeks. He presented back to his wound care clinic
yesterday with worsening wound breakdown.

Of note, patient has a significant cardiac history with 5vessel
CABG ___, AICD placement and a recent MI ___ with EF
of 15% at that time and a cardioembolic R-sided stroke during 
the
same hospitalization presumed from L atrial appendage thrombus
and has been on Coumadin since. He also started HD ___ tunneled R IJ HD line (___). He was supposed to
undergo arteriovenous fistula/graft for HD access however was
postponed due to his high cardiac risk factors. Patient is
followed by ___ Cardiologist at ___. He
denies any recent chest pain, SOB, fevers, chills, nausea,
vomiting, dysuria.

 
Past Medical History:
NSTEMI/CAD (s/p CABG), ischemic cardiomyopathy (EF 15% ___,
___ Cardiologist), PAD, DM2, chronic pain syndrome,
nocturia, peripheral neuropathy, lumbago, afib, CKD (baseline 
Cre
2.5), cardioembolic stroke (L hemiplegia, ___
Neurology), L atrial appendage clot on coumadin depression,
ventricular tachycardia, rhabdomyolysis

PSH: 
5V CABG ___
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___ hematoma evacuation ___ (___)
bypass graft explantation
tonsillectomy
Debridement ankle infection ___
Revision right ankle ligament reconstruction with Achilles 
tendon
allograft ___

 
Social History:
___
Family History:
CAD, DM, stroke

 
Physical Exam:
Exam on discharge:
VS: T=97.6 BP=128/86 HR=64 RR=16 O2 sat=97/RA  
  GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
  HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
  NECK: Supple
  CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
  LUNGS: CTAB. No crackles, wheezes or rhonchi.  
  ABDOMEN: Soft, NTND. No HSM or tenderness.  
  EXTREMITIES: R BKA with dressings in place, no prurulence, 
erythema, or drainage
  NEURO: CNII-XII intact, sensorimotor function in all 
extremities intact 
  PULSES: R: P/D/BKA, L: P/P/D/D
 
Pertinent Results:
___ 06:09AM BLOOD WBC-7.3 RBC-3.62* Hgb-9.0* Hct-30.0* 
MCV-83 MCH-24.9* MCHC-30.0* RDW-19.0* RDWSD-56.7* Plt ___
___ 07:00AM BLOOD WBC-7.0 RBC-3.41* Hgb-8.7* Hct-28.3* 
MCV-83 MCH-25.5* MCHC-30.7* RDW-18.6* RDWSD-55.9* Plt ___
___ 11:00AM BLOOD WBC-6.6 RBC-3.49* Hgb-8.9* Hct-29.2* 
MCV-84 MCH-25.5* MCHC-30.5* RDW-18.5* RDWSD-55.9* Plt ___
___ 06:36AM BLOOD WBC-5.3 RBC-3.35* Hgb-8.5* Hct-28.3* 
MCV-85 MCH-25.4* MCHC-30.0* RDW-18.2* RDWSD-55.8* Plt ___
___ 07:00AM BLOOD WBC-5.2 RBC-3.40* Hgb-8.8* Hct-29.1* 
MCV-86 MCH-25.9* MCHC-30.2* RDW-18.4* RDWSD-57.4* Plt ___
___ 05:00AM BLOOD WBC-4.5 RBC-3.32* Hgb-8.3* Hct-28.0* 
MCV-84 MCH-25.0* MCHC-29.6* RDW-18.1* RDWSD-55.7* Plt Ct-86*
___ 05:35AM BLOOD WBC-6.4 RBC-3.43* Hgb-8.6* Hct-29.2* 
MCV-85 MCH-25.1* MCHC-29.5* RDW-18.2* RDWSD-56.4* Plt ___
___ 11:42AM BLOOD Hct-29.5*
___ 02:14AM BLOOD WBC-9.1 RBC-3.56* Hgb-9.3* Hct-30.8* 
MCV-87 MCH-26.1 MCHC-30.2* RDW-18.0* RDWSD-57.1* Plt ___
___ 01:45PM BLOOD WBC-8.3 RBC-3.67* Hgb-9.5* Hct-32.1* 
MCV-88 MCH-25.9* MCHC-29.6* RDW-18.0* RDWSD-58.0* Plt ___
___ 03:40AM BLOOD WBC-6.0 RBC-4.23* Hgb-10.7* Hct-36.7* 
MCV-87 MCH-25.3* MCHC-29.2* RDW-18.1* RDWSD-57.3* Plt ___
___ 08:45AM BLOOD WBC-6.0 RBC-4.33* Hgb-11.1* Hct-38.5* 
MCV-89 MCH-25.6* MCHC-28.8* RDW-18.3* RDWSD-59.0* Plt Ct-91*
___ 07:05AM BLOOD WBC-6.3 RBC-4.31* Hgb-11.2* Hct-38.0* 
MCV-88 MCH-26.0 MCHC-29.5* RDW-18.6* RDWSD-59.6* Plt ___
___ 03:31AM BLOOD WBC-7.8 RBC-4.52* Hgb-11.8* Hct-40.1 
MCV-89 MCH-26.1 MCHC-29.4* RDW-18.5* RDWSD-59.5* Plt ___
___ 12:00PM BLOOD WBC-7.1 RBC-4.24* Hgb-10.9* Hct-37.0* 
MCV-87 MCH-25.7* MCHC-29.5* RDW-18.7* RDWSD-58.4* Plt ___
___ 06:44AM BLOOD WBC-8.9 RBC-4.43* Hgb-11.7* Hct-39.0* 
MCV-88 MCH-26.4 MCHC-30.0* RDW-18.6* RDWSD-59.2* Plt ___
___ 06:30AM BLOOD WBC-7.6 RBC-4.30* Hgb-11.4* Hct-37.8* 
MCV-88 MCH-26.5 MCHC-30.2* RDW-18.9* RDWSD-59.7* Plt ___
___ 06:17AM BLOOD WBC-7.2 RBC-4.48* Hgb-11.4* Hct-38.6* 
MCV-86 MCH-25.4* MCHC-29.5* RDW-18.9* RDWSD-58.2* Plt ___
___ 03:54AM BLOOD WBC-10.3* RBC-4.54* Hgb-11.9* Hct-39.6* 
MCV-87 MCH-26.2 MCHC-30.1* RDW-18.5* RDWSD-57.2* Plt ___
___ 06:50AM BLOOD WBC-7.3 RBC-4.60 Hgb-11.8* Hct-40.2 
MCV-87 MCH-25.7* MCHC-29.4* RDW-18.2* RDWSD-57.1* Plt ___
___ 08:00PM BLOOD WBC-7.9 RBC-4.74 Hgb-12.2* Hct-40.5 
MCV-85 MCH-25.7* MCHC-30.1* RDW-18.0* RDWSD-55.8* Plt ___
___ 11:00AM BLOOD Neuts-70.3 Lymphs-13.7* Monos-12.6 
Eos-2.4 Baso-0.5 Im ___ AbsNeut-4.64 AbsLymp-0.90* 
AbsMono-0.83* AbsEos-0.16 AbsBaso-0.03
___ 08:00PM BLOOD Neuts-76.7* Lymphs-12.5* Monos-8.7 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-6.06 AbsLymp-0.99* 
AbsMono-0.69 AbsEos-0.10 AbsBaso-0.03
___ 07:20AM BLOOD ___
___ 06:09AM BLOOD Plt ___
___ 06:40AM BLOOD ___
___ 01:40PM BLOOD ___
___ 09:12PM BLOOD ___
___ 03:18PM BLOOD ___ PTT-99.8* ___
___ 06:45AM BLOOD ___ PTT-97.2* ___
___ 08:45PM BLOOD ___ PTT-105.1* ___
___ 01:05PM BLOOD ___ PTT-98.5* ___
___ 05:50AM BLOOD ___ PTT-88.0* ___
___ 01:30AM BLOOD ___ PTT-83.3* ___
___ 05:32PM BLOOD ___ PTT-85.6* ___
___:24AM BLOOD ___ PTT-87.7* ___
___ 06:36AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-84.9* ___
___ 08:00PM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-29.1 ___
___ 08:00PM BLOOD ___ PTT-26.4 ___
 
Brief Hospital Course:
The patient presented as a direct admit to the floor and was 
admitted to the  vascular surgery service. He was noted to have 
a nonhealing gangrene on ___ ankle w/exposed tendon. He was 
started on Vanc/Cipro/Flagyl in a renally dosed fashion. He was 
started on a heparin drip for anticoagulation, however his PTT's 
remained subtherapeutic. He was switched to an argatroban drip 
and his PTTs remained therapeutic during his hospitalization. 

Plastic surgery was consulted to determine if he would be a 
candidate for coverage of the wound- their recs were that the 
patient had significant gangrene and would need 
revascularization prior to coverage; additionally he was a high 
risk cardiac candidate and would require cardiac clearance prior 
to any ability to provide tissue coverage.  Cardiology assessed 
the patient and felt he had extremely high cardiac risk for 
intraoperative morbidity and mortality; furthermore the patients 
___ vasculature was not optimal it was deemed he was not a 
revascularization candidate.  As such, it was determined he 
would need a BKA and on ___ he underwent a Right Below Knee 
Amputation which the patient tolerated well.  For full details 
of the procedure please see the separately dictated operative 
report. The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the vascular step down unit.  The patient's home 
medications and home HD schedule were continued throughout this 
hospitalization. The Chronic Pain Service was consulted for pain 
management and their recs were followed. 

The patient was continued on IV antibiotics vanc, cipro, flagyl 
for 10 days post-op for some concern of erythema and drainage 
around the stump, and a wound vac was placed. Patient recovered 
well post-operatively and remained in the hospital for bridge to 
warfarin using argatroban and titration of argatroban. Once the 
patient's INR reached 4, the argatroban was discontinued and the 
warfarin dosing was adjusted to the patient's home dose to allow 
the INR to reach therapeutic level (___). Patient is discharged 
today with INR of 2.7, on all of his home meds, including 
warfarin 1mg daily as per his home regimen, and with wound vac 
change instructions (every three days) given to his rehab unit. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Morphine SR (MS ___ 30 mg PO Q12H 
2. OxyCODONE (Immediate Release) 20 mg PO Q4H:PRN pain 
3. Gabapentin 100 mg PO QAM 

 
Discharge Medications:
1. Gabapentin 100 mg PO QAM 
RX *gabapentin [Neurontin] 100 mg 1 capsule(s) by mouth every 
morning Disp #*30 Capsule Refills:*1
2. Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
3. OxyCODONE (Immediate Release) 20 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*20 
Tablet Refills:*0
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen 325 mg 1 tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*3
5. Amoxicillin-Clavulanic Acid ___ mg PO Q24H Duration: 1 Week 
RX *amoxicillin-pot clavulanate [Augmentin] 500 mg-125 mg 1 
tablet(s) by mouth every day Disp #*7 Tablet Refills:*0
6. Amoxicillin-Clavulanic Acid ___ mg PO POST HD (___) 
RX *amoxicillin-pot clavulanate [Augmentin] 500 mg-125 mg 1 
tablet(s) by mouth every dialysis day (___) Disp #*3 
Tablet Refills:*0
7. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
8. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
9. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
10. Metoprolol Tartrate 50 mg PO DAILY 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
11. Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
12. Warfarin 1 mg PO DAILY16 Duration: 1 Dose 
RX *warfarin [Coumadin] 1 mg 1 tablet(s) by mouth every night 
Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Severe Malnutrition
Peripheral Vascular Disease
End Stage Renal Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you at ___ 
___.  During your hospitalization, you had surgery to 
remove unhealthy tissue on your lower extremity.  You tolerated 
the procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

LOWER  EXTREMITY AMPUTATION 
DISCHARGE INSTRUCTIONS
ACTIVITY 
•You should keep your amputation site elevated and straight 
whenever possible.  This will prevent swelling of the stump and 
maintain flexibility in your joint.  
•It is very important that you put no weight or pressure on 
your stump with activity or at rest to allow the wound to heal 
properly. 
•You may use the opposite foot for transfers and pivots, if 
applicable.  It will take time to learn to use a walker and 
learn to transfer into and out of a wheelchair.  

MEDICATION
•Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
•You will likely be prescribed narcotic pain medication on 
discharge which  can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative. 
•You should take Tylenol ___ every 6 hours, as needed for 
pain.  If this is not enough, take your prescription narcotic 
pain medication.  You should require less pain medication each 
day.  Do not take more than a daily total of 3000mg of Tylenol.  
Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much Tylenol you 
are taking in a day.

BATHING/SHOWERING: 
•You may shower when you feel strong enough but no tub baths or 
pools until you have permission from your surgeon and the 
incision is fully healed.
•After your shower, gently dry the incision well.   Do not rub 
the area. 

WOUND CARE:
•Please keep the wound clean and dry. It is very important that 
there is no pressure on the stump.    If there is no drainage, 
you may leave the incision open to air.  
•Your staples/sutures will remain in for at least 4 weeks.  At 
your followup appointment, we will see if the incision has 
healed enough to remove the staples. 
•Before you can be fitted for prosthesis (a man-made limb to 
replace the limb that was removed) your incision needs to be 
fully healed. 

 
Followup Instructions:
___